US08314107B2
A mixture of methyl 5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)pyrazine-2-carboxylate (0.10 g, 0.26 mmol) and 2N aqueous sodium hydroxide (0.4 mL) in acetone (2 mL) was stirred at room temperature for 0.5 h. The reaction mixture was acidified by concentrated hydrochloric acid and concentrated under reduced pressure to afford 5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)pyrazine-2-carboxylic acid hydrochloric acid salt as an off-white solid (0.10 g, 96%) which was used next step without further purifications. MS (ESI): 368.4 (M+1).

reactant | methyl 5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)pyrazine-2-carboxylate | 0.26 mmol, 0.10 g | FC(C1=CC=C(C=C1)N1CCC(CC1)OC=1N=CC(=NC1)C(=O)OC)(F)F | C18H18F3N3O3
reactant | sodium hydroxide | 2N, 0.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 5-(1-(4-(trifluoromethyl)phenyl)piperidin-4-yloxy)pyrazine-2-carboxylic acid hydrochloric acid salt | 0.10 g, 96% | Cl.FC(C1=CC=C(C=C1)N1CCC(CC1)OC=1N=CC(=NC1)C(=O)O)(F)F | InChI=1S/C17H16F3N3O3.ClH/c18-17(19,20)11-1-3-12(4-2-11)23-7-5-13(6-8-23)26-15-10-21-14(9-22-15)16(24)25;/h1-4,9-10,13H,5-8H2,(H,24,25);1H
